US05093328
To a solution of (2S,4R)-2-acetoxymethyl-4-hydroxypyrrolidine (22.66 g) in water (100 ml), a solution of S-p-nitrobenzyloxycarbonyl-4,6-dimethyl-2-mercaptopyrimidine (34.45 g) in tetrahydrofuran (453 ml) was added at room temperature, followed by addition of triethylamine (22.54 ml). The resulting mixture was stirred at the same temperature for 30 minutes and diluted with ethyl acetate. The reaction mixture was washed successively with dilute hydrochloric acid and aqueous sodium chloride solution and dried over magnesium sulfate, followed by removal of the solvent. The residue was purified by silica gel column chromatography to give (2S,4R)-1-p-nitrobenzyloxycarbonyl-2-acetoxymethyl4-hydroxypyrrolidine.

reactant | (2S,4R)-2-acetoxymethyl-4-hydroxypyrrolidine | 22.66 g | C(C)(=O)OC[C@H]1NC[C@@H](C1)O | C7H13NO3
reactant | S-p-nitrobenzyloxycarbonyl-4,6-dimethyl-2-mercaptopyrimidine | 34.45 g | [N+](=O)([O-])C1=CC=C(COC(=O)SC2=NC(=CC(=N2)C)C)C=C1 | C14H13N3O4S
reactant | triethylamine | 22.54 ml | C(C)N(CC)CC | C6H15N
solvent | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 453 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S,4R)-1-p-nitrobenzyloxycarbonyl-2-acetoxymethyl4-hydroxypyrrolidine | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@H](C2)O)COC(C)=O)C=C1 | C15H18N2O7
